US09371332B2
1-[(8-azabicyclo[3.2.1]octan-3-yl]-4-chloro-3-methyl-5-phenyl-pyrazolo[3,4-c]pyridazine (Compound XIIIa)
Compound XIIIa was synthesized from 4-chloro-3-methyl-5-phenyl-1H-pyrazolo[3,4-c]pyridazine and nortropine following the general procedure for the Mitsunobu reaction described in Example 20.

reactant | 4-chloro-3-methyl-5-phenyl-1H-pyrazolo[3,4-c]pyridazine | ClC1=C2C(=NN=C1C1=CC=CC=C1)NN=C2C | C12H9ClN4
reactant | nortropine | C1C[C@H]2CC(C[C@@H]1N2)O | C7H13NO
product | (8-azabicyclo[3.2.1]octan-3-yl]-4-chloro-3-methyl-5-phenyl-pyrazolo[3,4-c]pyridazine | C12CC(CC(CC1)N2)N2N=C(C=1C2=NN=C(C1Cl)C1=CC=CC=C1)C | C19H20ClN5
